US09233946B2
N-[3-(1H-Tetrazol-5-yl)phenyl]-1-benzothiophene-2-sulfonamide
The product was prepared according to General Procedure 1, described in Example 1, with 1-benzothiophene-2-sulfonyl chloride (12.8 mg, 0.055 mmol) and 5-(3-amino-phenyl)tetrazole (8.0 mg, 0.050 mmol). The title compound was obtained in 60% yield (10.8 mg). MS (ESI+) calcd mass for C15H11N5O2S2 357.035416, found 357.036256.

reactant | 1-benzothiophene-2-sulfonyl chloride | 0.055 mmol, 12.8 mg | S1C(=CC2=C1C=CC=C2)S(=O)(=O)Cl | C8H5ClO2S2
reactant | 5-(3-amino-phenyl)tetrazole | 0.050 mmol, 8.0 mg | NC=1C=C(C=CC1)C1=NN=NN1 | C7H7N5
product | N-[3-(1H-Tetrazol-5-yl)phenyl]-1-benzothiophene-2-sulfonamide | 60% yield | N1N=NN=C1C=1C=C(C=CC1)NS(=O)(=O)C=1SC2=C(C1)C=CC=C2 | C15H11N5O2S2
